US06949579B2
6-bromo-4,5,7-trifluoro-1H-indazole-3-amine
1.14 cm3 of hydrazine monohydrate are added to 2.0 g of 4-bromo-2,3,5,6-tetrafluorobenzonitrile in 40 cm3 of absolute ethanol. The mixture is refluxed for 18 hours, 30 cm3 of distilled water are then added and the reaction medium is concentrated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 100 cm3 of ethyl acetate and 10 cm3 of water, and the organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.); after drying (90 Pa; 40° C.), 2.1 g of 6-bromo-4,5,7-trifluoro-1H-indazole-3-amine are obtained in the form of a beige-coloured solid.

reactant | hydrazine monohydrate | 1.14 cm3 | O.NN
reactant | 4-bromo-2,3,5,6-tetrafluorobenzonitrile | 2.0 g | BrC1=C(C(=C(C#N)C(=C1F)F)F)F | C7BrF4N
reactant | water | 30 cm3 | O | H2O
solvent | ethanol | 40 cm3 | C(C)O | C2H6O
product | 6-bromo-4,5,7-trifluoro-1H-indazole-3-amine | BrC1=C(C(=C2C(=NNC2=C1F)N)F)F | C7H3BrF3N3
